.include osu018p.lib
.include osu018n.lib
m3 vdd in2 out vdd pfet W=0.2u L=0.18u M=1
m2  out in2 gnd gnd nfet W=0.72u L=0.18u M=1
m1  in2 vdd in1 gnd nfet W=0.36u L=0.18u M=1
v2 vdd gnd  dc 1.8V
v1 in1 gnd  dc 1.8V
.dc v1 0e-00 1.8e-00 0.01e-00

* Control Statements 
.control
run
plot v(in1) vs v(out) v(out) vs v(in1)
.endc
.end
